US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.10 g, 0.305 mmol), 2-(trifluoromethyl)phenylboronic acid (64 mg, 0.335 mmol), Pd2(dba)3 (0.035 g, 0.061 mmol), X-phos (0.058 g, 0.122 mmol) and Na2CO3 (0.097 g, 0.915 mmol) in dioxane (20 mL) and water (5 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:10) and the residue was further purified by Prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 30% acetonitrile/70% water (0.1% TFA V/V) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA V/V) in a linear fashion over 9 min). The fractions containing product were acidified by the addition of concentrated HCl then concentrated to afford N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (38 mg, 26%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.88 (s, 1H), 8.84 (s, 1H), 8.52 (s, 1H), 8.27 (s, 1H), 7.94-7.66 (m, 4 h), 7.48 (t, 1H, J=7.5 Hz), 6.67 (d, 1H, J=7.5 Hz), 6.08 (d, 1H, J=8.1 Hz), 3.95-3.91 (m, 1H), 3.37-3.28 (m, 1H), 3.09-3.02 (m, 1H), 1.92-1.83 (m, 3H), 1.49-1.41 (m, 1H), 0.78 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 439, tR=1.91 min, HPLC: 98.98% at 214 nm, 99.36% at 254 nm, tR=6.99 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.305 mmol, 0.10 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 2-(trifluoromethyl)phenylboronic acid | 0.335 mmol, 64 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | X-phos | 0.122 mmol, 0.058 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.915 mmol, 0.097 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.061 mmol, 0.035 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 38 mg, 26% | Cl.CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=C(C=CC=C1)C(F)(F)F)C=CN2 | InChI=1S/C23H21F3N6.ClH/c1-15-6-5-12-31(15)21-10-4-9-20(29-21)28-19-14-18(30-32-13-11-27-22(19)32)16-7-2-3-8-17(16)23(24,25)26;/h2-4,7-11,13-15H,5-6,12H2,1H3,(H,28,29);1H
